US04215123
1-Ethyl-1,2-dihydro-4-hydroxy-7-methyl-2-oxo-1,8-naphthyridine-3-carboxylic acid ethyl ester sodium salt
To a solution of 0.23 g. (0.01 g. atoms) of sodium in 100 ml. of ethanol was added 2.76 g. (0.01 mole) of 1-ethyl-1,2-dihydro-4-hydroxy-7-methyl-2-oxo-1,8-naphthyridine-3-carboxylic acid ethyl ester prepared by the method of Example 1. The mixture was stirred at room temperature for 2 hours. The mixture was filtered and the filter cake was dissolved in boiling ethanol. After cooling, the solution was diluted with diethyl ether to the cloudy point. Further cooling produced a precipitate which was collected to give 1.1 g. of the title compound, m.p. >300° C.

reactant | sodium | 0.01 g | [Na] | Na
reactant | 1-ethyl-1,2-dihydro-4-hydroxy-7-methyl-2-oxo-1,8-naphthyridine-3-carboxylic acid ethyl ester | 0.01 mole | C(C)OC(=O)C=1C(N(C2=NC(=CC=C2C1O)C)CC)=O | C14H16N2O4
solvent | ethanol | C(C)O | C2H6O
product | 1-Ethyl-1,2-dihydro-4-hydroxy-7-methyl-2-oxo-1,8-naphthyridine-3-carboxylic acid ethyl ester sodium salt | [Na].C(C)OC(=O)C=1C(N(C2=NC(=CC=C2C1O)C)CC)=O | InChI=1S/C14H16N2O4.Na/c1-4-16-12-9(7-6-8(3)15-12)11(17)10(13(16)18)14(19)20-5-2;/h6-7,17H,4-5H2,1-3H3;
